US08420817B2
E.2 tert-Butyl 4-[(3-amino-5-bromopyridin-2-yl)amino]-2-tert-butoxycarbonylamino-butanoate
A suspension of 3.5 g of tert-butyl 4-[(5-bromo-3-nitropyridin-2-yl)amino]-2-tert-butoxycarbonylaminobutanoate, 1.23 g (22 mmol) of iron powder and 20 g (0.373 mol) of ammonium chloride in 40 ml of a 1:1 mixture of ethanol and tetrahydrofuran is heated at reflux for two hours. After this time the reaction mixture is filtered on a bed of celite, which is rinsed with 100 ml of ethanol. The filtrate is concentrated under reduced pressure and then the residue is taken up in 20 ml of water. The mixture is then extracted with three times 50 ml of ethyl acetate. The organic phases are combined, washed with 50 ml of a saturated aqueous sodium chloride solution, dried over sodium sulfate and then concentrated under reduced pressure. An oil is recovered which is purified by chromatography on a silica column, eluting with a mixture of dichloromethane and methanol. This gives 2.93 g of the expected product in the form of a solid, used as it is in the remainder of the synthesis.

reactant | tert-butyl 4-[(5-bromo-3-nitropyridin-2-yl)amino]-2-tert-butoxycarbonylaminobutanoate | 3.5 g | BrC=1C=C(C(=NC1)NCCC(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)[N+](=O)[O-] | C18H27BrN4O6
reactant | ammonium chloride | 0.373 mol, 20 g | [Cl-].[NH4+]
reactant | ethanol | C(C)O | C2H6O
catalyst | iron | 22 mmol, 1.23 g | [Fe] | Fe
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-Butyl 4-[(3-amino-5-bromopyridin-2-yl)amino]-2-tert-butoxycarbonylamino-butanoate | NC=1C(=NC=C(C1)Br)NCCC(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C18H29BrN4O4
